US04021229
Preparation of 2-bromoethyl chloromethanesulfonamide
Pyridine (17.8 ml.) was added over a period of 30 minutes to a cooled solution (15- 20° C.) of 2-bromoethylamine hydrobromide (20.5 g., 0.10 mole) and chloromethanesulfonyl chloride (14.9 g., 0.10 mole) in chloroform. The mixture was stirred for 1 hour and then washed with water (100 ml.) and dilute hydrochloric acid (50 ml.). The solution was dried over magnesium sulfate. The solvent was evaporated in vacuo. There was obtained 10 g. of a dark oil, the title compound. Structure was confirmed by infrared analysis.

reactant | Pyridine | 17.8 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-bromoethylamine hydrobromide | 0.10 mole, 20.5 g | Br.BrCCN
reactant | chloromethanesulfonyl chloride | 0.10 mole, 14.9 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-bromoethyl chloromethanesulfonamide | BrCCC(S(=O)(=O)N)Cl | C3H7BrClNO2S
